US04460580
A mixture of 2.7 g of α-(aminomethyl)-2-thiophenmethanol and 3.6 g of 2,3-dihydro-2,2-dimethyl-6-(2-bromoethoxy)-4H-1,3-benzoxazin-4-one is stirred together with 2 ml of triethylamine for 1 hour in a bath at 100°-110°. The reaction mixture is partitioned between 100 ml of ethyl acetate and 10 ml of 2N aqueous potassium bicarbonate solution and the organic phase is separated off, dried over magnesium sulfate and evaporated, yielding crude α-[N-[2-(3-carbamoyl-4-hydroxy-phenoxy)-ethyl]-amino-methyl]-2-thiophen-methanol in the form of a crystalline mass which after recrystallisation from a little isopropanol melts at 158°-161°; repeated recrystallisation raises the melting point to 171°-172°.

reactant | α-(aminomethyl)-2-thiophenmethanol | 2.7 g | NCC(O)C=1SC=CC1 | C6H9NOS
reactant | 2,3-dihydro-2,2-dimethyl-6-(2-bromoethoxy)-4H-1,3-benzoxazin-4-one | 3.6 g | CC1(OC2=C(C(N1)=O)C=C(C=C2)OCCBr)C | C12H14BrNO3
solvent | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
product | α-[N-[2-(3-carbamoyl-4-hydroxy-phenoxy)-ethyl]-amino-methyl]-2-thiophen-methanol | C(N)(=O)C=1C=C(OCCNCC(O)C=2SC=CC2)C=CC1O | C15H18N2O4S
